US09107411B2
At 0° C., [6-chloro-1-ethyl-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indol-5-yl]methanaminium trifluoroacetate (0.07 g, 0.15 mmol), triethylamine (0.036 g, 0.36 mmol) and N,N-dimethylpyridin-4-amine (0.002 g, 0.12 mmol) were initially charged in dichloromethane (1 ml). Acetic anhydride (0.021 g, 0.21 mmol) was added dropwise and the reaction mixture was stirred at room temperature for 16 h. Ethyl acetate was added and the organic phase was washed successively with water, saturated ammonium chloride solution and saturated sodium hydrogencarbonate solution. The organic phase was dried over sodium sulphate and the solvent was removed under reduced pressure. 0.06 g (98% of theory) of 5-(acetamidomethyl)-6-chloro-1-ethyl-N-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2-carboxamide was obtained.

reactant | [6-chloro-1-ethyl-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indol-5-yl]methanaminium trifluoroacetate | 0.15 mmol, 0.07 g | FC(C(=O)[O-])(F)F.ClC1=C(C=C2C=C(N(C2=C1)CC)C(NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)=O)C[NH3+]
reactant | triethylamine | 0.36 mmol, 0.036 g | C(C)N(CC)CC | C6H15N
reactant | Acetic anhydride | 0.21 mmol, 0.021 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | N,N-dimethylpyridin-4-amine | 0.12 mmol, 0.002 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 5-(acetamidomethyl)-6-chloro-1-ethyl-N-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2-carboxamide | 0.06 g, 98% | C(C)(=O)NCC=1C=C2C=C(N(C2=CC1Cl)CC)C(=O)NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F | C23H20ClF6N3O2
